US04904680
1 liter of acetone was added to a solution of 266.2 g of (4R)-thiazolidine-4-carboxylic acid in 1 liter of a 2N aqueous solution of sodium hydroxide. The solution was cooled at a temperature between 2° and 5° C., and then a solution of 280 g of benzoyl chloride in 0.8 liter of acetone was added dropwise, while maintaining the pH value of the reaction mixture at 7.5-8.0 by the addition of 1 liter of a 2N aqueous solution of sodium hydroxide. When the addition was complete, the reaction mixture was stirred at a temperature between 0° and 5° C. for 1 hour, after which it was concentrated by evaporation under reduced pressure to a volume of about 2.5 liters. The concentrate was washed with 2 liters of ethyl acetate, the aqueous phase was adjusted to a pH value of 2.0 by the addition of concentrated hydrochloric acid, maintaining the temperature at between 0° and 5° C., and the mixture was extracted twice, each time with 2 liters of ethyl acetate. The ethyl acetate phase was washed with a 10% w/v aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The solvent was then distilled off to give 511.2 g of (4R)-3-benzoylthiazolidine-4-carboxylic acid.

reactant | (4R)-thiazolidine-4-carboxylic acid | 266.2 g | S1CN[C@@H](C1)C(=O)O | C4H7NO2S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | benzoyl chloride | 280 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | acetone | 0.8 liter | CC(=O)C | C3H6O
solvent | acetone | 1 liter | CC(=O)C | C3H6O
product | (4R)-3-benzoylthiazolidine-4-carboxylic acid | 511.2 g | C(C1=CC=CC=C1)(=O)N1CSC[C@H]1C(=O)O | C11H11NO3S
